Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, nausea and vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ M with a medical history notable for type 1 
diabetes and gastroparesis with multiple recent admissions for 
gastroparesis flares. He presented to the ___ ED who a typical 
gastroparesis flare. He noted recurrent emesis, several with a 
few strings of blood. He was last admitted with similar symptoms 
1 month ago for 5 days. 

In ER: (Triage Vitals: 96.8, 173, 118, 20, 100% on RA) 
Meds Given: Zofran and Dilaudid. He also received IV fluids and 
an IV insulin drip until his anion gap closed.
 
Past Medical History:
1. Diabetes, type I  - A1c: 7.7 ___
2. Gastroparesis: diagnosis confirmed on gastric emptying study 
at ___. 
3. Hypertension  
4. Concern for depressed mood on prior admissions - seen by  
psych on prior admission.
 
Social History:
___
Family History:
Denies family history of CAD, DM.
 
Physical Exam:
VS:  T 98.7 P = 111 BP = 162/111 RR = 20 O2Sat = 100% on RA BS = 
350

GENERAL: Thin male laying in bed. He is shaking. I witness him 
after   
Nourishment: OK
Grooming:OK  
Mentation: Alert, he looks uncomfortable.   
Eyes:NC/AT, PERRL,  No scleral icterus noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple, no JVD or carotid bruits appreciated  
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: RRR, nl. S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Genitourinary:  deferred
Skin: + tatoo
Extremities: No C/C/E bilaterally, 2+ radial, DP and ___ pulses 
b/l.  
Lymphatics/Heme/Immun: No cervical lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, orientation could not be assessed. Able 
to shake head yes or no to questions
-cranial nerves: II-XII grossly intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
 
Pertinent Results:
Presentation Labs:
 ___ 07:30PM BLOOD Glucose-351* UreaN-13 Creat-1.1 Na-130* 
K-4.1 Cl-94* HCO3-18* AnGap-22* ALT-21 AST-18 AlkPhos-125 
TotBili-0.9
___ 05:30AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.8
___ 11:45PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:30PM BLOOD Lipase-33
___ 07:30PM BLOOD WBC-12.6* RBC-4.78 Hgb-13.2* Hct-39.7* 
MCV-83 MCH-27.7 MCHC-33.3 RDW-14.8 Plt ___

Discharge Labs:
___ 04:10PM BLOOD Glucose-195* UreaN-10 Creat-0.9 Na-132* 
K-3.7 Cl-95* HCO3-26 AnGap-15
___ 04:10PM BLOOD WBC-17.0* RBC-4.49* Hgb-12.1* Hct-36.8* 
MCV-82 MCH-27.0 MCHC-32.9 RDW-14.6 Plt ___

Urine Studies:
___ 02:45AM URINE Type-RANDOM Color-Straw Appear-Clear Sp 
___
___ 02:45AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-1000 Ketone-80 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:45AM URINE RBC-1 WBC-<1 Bacteri-FEW Yeast-NONE 
___

___ Blood culture: no growth

___ KUB: FINDINGS: No dilated loops of bowel or air-fluid 
levels are seen. Air is seen within a non-distended descending 
and sigmoid colon. No evidence of freeair is seen. Osseous 
structures are grossly unremarkable. IMPRESSION: Non-obstructive 
bowel gas pattern.
.
Note labs returned after discharge as below:
___ 10:22AM BLOOD Glucose-260* UreaN-8 Creat-0.8 Na-126* 
K-3.4 Cl-93* HCO3-25 AnGap-11
Sodium corrects to 128 
 
Brief Hospital Course:
Mr. ___ is a ___ M with uncontrolled type I diabetes with 
gastroparesis who presented with his typical abdominal symptoms 
of intermittent LLQ pain, nausea, and vomiting. On presentation 
he was in mild DKA and required an insulin drip. There was no 
obvious precipitant for his DKA despite a thorough evaluation 
but does report missing his Lantus approximately twice per week. 
On the floor his blood glucose levels were controlled with home 
lantus and humalog sliding scale insulin.  Pt was  treated with 
bowel rest, anti-emetics, and pain medications. He slowly 
improved and on the morning of ___, he was feeling well and 
denying any complaints.  He was advanced a regular diet without 
complications. There were no changes were made to his medical 
regimen on discharge.
.
Hyponatremia: Pt had labs drawn advertantly prior to leaving the 
floor based on outdated orders.  These revealed that he had a 
corrected sodium of 128 and I was unable to contact him at home. 
 I spoke with his health care proxy Ms ___ and she was on her 
way to spend the day with him. She agreed to monitor him for any 
mental status changes, confusion or lightheadedness and agreed 
that she should bring him in for urgent evaluation if any of 
these occurred.  His primary care Physician's office was 
notified and Ms ___ agreed to bring the patient in to his 
PCP's office on the morning of ___ for follow up labs to be 
drawn.
 
Medications on Admission:
Taken from discharge summary as the patient is unable to tell me 
his medications as he is vomiting. 
1. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 

 
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  


3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 

times a day).  
4. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
5. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO three 
times a day: pre meals.
Disp:*90 Tablet(s)* Refills:*2*
6. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 

hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
8. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.
Disp:*20 Tablet, Rapid Dissolve(s)* Refills:*0*
9. insulin glargine 100 unit/mL (3 mL) Insulin Pen Sig: Thirty 
(30) units Subcutaneous at bedtime.  
10. insulin lispro 100 unit/mL Insulin Pen Sig: ASDR  
Subcutaneous three times a day.  

 
Discharge Medications:
1. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
5. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
6. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: ___ Tablet, Rapid 
Dissolves PO every eight (8) hours as needed for nausea.  
7. insulin glargine 100 unit/mL Solution Sig: ___ (36) 
units Subcutaneous at bedtime.  
8. insulin lispro 100 unit/mL Solution Sig: ___ units 
Subcutaneous three times a day as needed for sliding scale.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uncontrolled type I diabetes with complications 
Gastroparesis
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with abdominal pain and nausea. This improved 
with bowel rest, anti-nausea medicines, and pain medicines. We 
restarted all of your home medications and have made no changes 
to your regimen. It is important that you take your insulin 
every day and keep the follow up appointment with your PCP.  

You need to get follow up labs drawn tomorrow morning at Dr. 
___ and they will give you additional details 
regarding your follow up appointment.
 
Followup Instructions:
___